US08138197B2
Methyl 5-cyanobiphenyl-3-carboxylate
Zinc cyanide (1.1 g) and Pd(PPh3)4 (281 mg) were added to a DMF (45 mL) solution of methyl 5-{[(trifluoromethyl)sulfonyl]oxy}biphenyl-3-carboxylate (1.68 g), and stirred at 90° C. for 1 hour and 30 minutes. The reaction liquid was filtered through Celite, the solvent was partly evaporated away, and the residue was diluted with ethyl acetate, aqueous ammonia was added to it, and the solution was extracted with ethyl acetate. The organic layer was washed with water and saturated saline water, dried with anhydrous sodium sulfate, filtered, and the solvent was evaporated away. The residue was purified through silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound as a white powder.

reactant | methyl 5-{[(trifluoromethyl)sulfonyl]oxy}biphenyl-3-carboxylate | 1.68 g | FC(S(=O)(=O)OC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)OC)(F)F | C15H11F3O5S
reactant | DMF | 45 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 1.1 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 281 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 5-cyanobiphenyl-3-carboxylate | C(#N)C=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)OC | C15H11NO2
